US07238716B2
A mixture of 2-[2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]acetonitrile (1.02 g), a 2N aqueous sodium hydroxide solution (10 mL) and ethanol (20 mL) was heated under reflux for 5 hrs. Water was added to the reaction mixture, and the mixture was neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give crystals (820 mg, 77%) of 2-[2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]acetic acid. Recrystallization from ethyl acetate-isopropyl ether gave colorless needle crystals. melting point: 129-130° C.

reactant | 2-[2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]acetonitrile | 1.02 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=NC=CC=C1CC#N | C22H18N4O4
reactant | sodium hydroxide | 2N, 10 mL | [OH-].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | Water | O | H2O
product | 2-[2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]acetic acid | 820 mg, 77% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=NC=CC=C1CC(=O)O | C22H19N3O6
